* C:\Users\rruark\Documents\GitHub\10BASE-T1L\Draft1.asc
C1 cap 0 100pF
R1 N001 cap 1500
D1 N001 0 D
.model D D
.lib C:\Users\rruark\Documents\LTspiceXVII\lib\cmp\standard.dio
.ic v(cap)=6000
.tran 100u
.backanno
.end
