* C:\users\rruark\My Documents\Documents\pcb\10BASE-T1L\MDI Return Loss.asc
R1 N001 N006 100
C1 N001 N006 5pF
C2 N002 N001 0.47µF
C3 N007 N006 0.47µF
R2 N008 N012 1k
R3 N003 N013 1k
C4 N012 0 1nF
C5 N013 0 1nF
C6 N006 0 {c_clamp}
C7 N001 0 {c_clamp}
L1 N003 N004 {cmc}
L2 N008 N009 {cmc}
V1 N005 N010 AC 1 0
L5 N004 N005 {cmc_lkg} Rser=0.3
L6 N009 N010 {cmc_lkg} Rser=0.3
C8 N011 0 10µ
L9 N002 N007 {xfmr}
L10 N003 N008 {xfmr}
L3 N008 0 1m
L4 N003 N011 1m
.param c_clamp=0.65pF xfmr=200uH cmc=1mH cmc_lkg=80nH dmc=1mH dmc_lkg=80nH
;tran 1
.ac dec 100 100k 20e6
k1 l1 l2 1
k3 l9 l10 1
* (100+1/I(V1))/(100-1/I(V1))
.backanno
.end
