* C:\users\rruark\My Documents\Documents\pcb\10BASE-T1L\hybrid.asc
XU2 N003 N001 vcc 0 RX1 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
B1 TX1 0 V=(sgn(rand(1e3*time)-0.5)+1)/2
B2 TX2 0 V=(sgn(rand(1e3*time+10000)-0.5)+1)/2
R1 vc TX1 50
R2 vc TX2 50
V1 vcc 0 1
R3 TX1 N001 20k
R4 vc N003 10k
R5 N001 RX1 20k
R6 0 N001 20k
R7 0 N003 20k
XU1 N004 N002 vcc 0 RX2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 TX2 N002 20k
R9 vc N004 10k
R10 N002 RX2 20k
R11 0 N002 20k
R12 0 N004 20k
.tran 0 0.1 0 10u
.lib UniversalOpAmp2.lib
.backanno
.end
